US04874769
A mixture of 3.51 g (0.014 mol) 2-[(3-hydroxyphenoxy)methyl]quinoline, 2.04 g (0.14 mol) 5-(3-chloropropyl)tetrazole and 2 g (0.036 mol) KOH in 5 ml water and 50 ml ethanol is heated over a steam bath for a period of 3 hours. Reaction mixture is concentrated to dryness and slurried into water and extracted with methylene chloride. The methylene chloride extract is washed with water, dried over MgSO4 and concentrated under reduced pressure to obtain solid which is passed through a silica gel column using hexane/ethyl acetate (55:45) as eluent. Evaporation of eluent gives 5-[3-(3-(2-quinolylmethyloxy)phenoxy)propyl]tetrazole (M.P. 147°-149° C.).

reactant | 2-[(3-hydroxyphenoxy)methyl]quinoline | 0.014 mol, 3.51 g | OC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C16H13NO2
reactant | 5-(3-chloropropyl)tetrazole | 0.14 mol, 2.04 g | ClCCCC1=NN=NN1 | C4H7ClN4
reactant | KOH | 0.036 mol, 2 g | [OH-].[K+]
solvent | water | 5 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-[3-(3-(2-quinolylmethyloxy)phenoxy)propyl]tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(OCCCC2=NN=NN2)C=CC1 | C20H19N5O2
